US07105532B2
5-Phenyl-1H-pyrazolo[3,4-c]pyridin-3-ylamine
Hydrazine hydrate (0.3 mL, 5.9 mmol) was added to a stirred solution of 5-chloro-2-phenyl-isonicotinonitrile (420 mg, 1.9 mmol) in pyridine (5 mL). The reaction mixture was stirred at reflux for 3 hours, cooled and the resulting solid was filtered and dried in vacuo, affording a crude residue. Purification by column chromatography using a gradient elution of 0–5% methanol in dichloromethane as eluent afforded the title compound as a solid.

reactant | Hydrazine hydrate | 5.9 mmol, 0.3 mL | O.NN
reactant | 5-chloro-2-phenyl-isonicotinonitrile | 1.9 mmol, 420 mg | ClC1=CN=C(C=C1C#N)C1=CC=CC=C1 | C12H7ClN2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5-Phenyl-1H-pyrazolo[3,4-c]pyridin-3-ylamine | C1(=CC=CC=C1)C=1C=C2C(=CN1)NN=C2N | C12H10N4
